US07241791B2
Step 1: 2,3-difluoro-N-methoxy-N-methylbenzamide
Prepared according to Method A step A from 2,3-difluorobenzoic acid (4.0 g, 25 mmol), N,O-dimethylhydroxylamine hydrochloride (3.4 g, 35 mmol), oxalyl chloride (2.2 mL, 25 mmol) and 6 mL of pyridine to give the title compound (4.7 g) as an oil. Used as is in the next preparation.

reactant | 2,3-difluorobenzoic acid | 25 mmol, 4.0 g | FC1=C(C(=O)O)C=CC=C1F | C7H4F2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 35 mmol, 3.4 g | Cl.CNOC
reactant | oxalyl chloride | 25 mmol, 2.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | 2,3-difluoro-N-methoxy-N-methylbenzamide | 4.7 g | FC1=C(C(=O)N(C)OC)C=CC=C1F | C9H9F2NO2
